US09238631B2
e) Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(3-fluoropropyl)pyridin-2-yl]-methyl}-L-glutamate
Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(3-hydroxypropyl)pyridin-2-yl]methyl}-L-glutamate (68 mg, 0.13 mmol) was dissolved in 2 ml tetrahydrofuran, and cooled to 0° C. Triethylamine (280 μl, 2.01 mmol), 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride (162 mg, 0.53 mmol), and triethylamine trihydrofluoride (86 mg, 0.53 mmol) were added, and the reaction was stirred at room temperature for 24 h. The same amounts of triethylamine, 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride and triethylamine trihydrofluoride were added again and the reaction was continued for 1 h. Water (10 ml) was added, and the mixture was extracted with dichloromethane (3×10 ml). The organic phases were dried over magnesium sulfate and concentrated. The so derived material was used without further purification.

reactant | Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(3-hydroxypropyl)pyridin-2-yl]methyl}-L-glutamate | 0.13 mmol, 68 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=NC=C(C=C1)CCCO)C(=O)OC(C)(C)C | C27H44N2O7
reactant | Triethylamine | 2.01 mmol, 280 μl | C(C)N(CC)CC | C6H15N
reactant | 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride | 0.53 mmol, 162 mg | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | triethylamine trihydrofluoride | 0.53 mmol, 86 mg | F.F.F.C(C)N(CC)CC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | Water | 10 ml | O | H2O
product | Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(3-fluoropropyl)pyridin-2-yl]-methyl}-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=NC=C(C=C1)CCCF)C(=O)OC(C)(C)C | C27H43FN2O6
